US05612377
1-Hydroxy-1-(1-methylethyl)-3-(3,4,5-trimethoxyphenyl)urea
A solution of N-isopropylhydroxylamine hydrochloride (1.2 g, 11 mmol) in water (5 mL) was combined with diethyl ether (35 mL) then cooled in an ice bath. A solution of sodium hydroxide (0.5 g, 12.5 mmol) in water (7 mL) was added over a 10 minute period. The reaction mixture was stirred for 10 minutes then 3,4,5-trimethoxyphenyl isocyanate (2.1 g, 10 mmol) was added as a solid. The reaction mixture was stirred at ambient temperature for 18 hours then filtered to remove a white precipitate. The filtrate was concentrated under vacuum to provide 2.1 g of the desired product as a white solid. An analytical sample was prepared by recrystallization from hexanes:ethyl acetate, m.p. 140.0°-141.0 ° C. Analysis: Calculated for C13H20N2O5 : %C, 54.92; %H, 7.09; %N, 9.85; Found: %C, 55.12; %H, 7.06; %N, 9.77.

reactant | N-isopropylhydroxylamine hydrochloride | 11 mmol, 1.2 g | Cl.C(C)(C)NO
reactant | diethyl ether | 35 mL | C(C)OCC | C4H10O
reactant | sodium hydroxide | 12.5 mmol, 0.5 g | [OH-].[Na+]
reactant | 3,4,5-trimethoxyphenyl isocyanate | 10 mmol, 2.1 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
solvent | water | 5 mL | O | H2O
solvent | water | 7 mL | O | H2O
product | 1-Hydroxy-1-(1-methylethyl)-3-(3,4,5-trimethoxyphenyl)urea | 2.1 g | ON(C(=O)NC1=CC(=C(C(=C1)OC)OC)OC)C(C)C | C13H20N2O5
